US06605609B2
Step 1 Preparation of 4-(2,6-difluoro-4-nitrophenyl)thiomorpholine
2,6-Difluoro-4-nitrophenyl trifluoromethanesulfonate (992 mg, 3.23 mmol) is dissolved in dry tetrahydrofuran (15 mL) and then treated dropwise with thiomorpholine (0.487 mL, 4.85 mmol). The reaction is then heated to reflux (70° C.) under nitrogen for 16 hours. The reaction is then allowed to cool to room temperature, stirring over the weekend (56 hours) under nitrogen. At this time, the reaction is found to be complete by thin layer chromatography. The reaction mixture is concentrated under reduced pressure to yield a yellow solid and then absorbed onto silica gel (25 g). The material is then chromatographed on more silica gel (75 g, packed with hexane), eluting with 5% ethyl acetate/hexane to give 535 mg (64%) of the title compound as a solid, mp: 104-105° C.

reactant | 2,6-Difluoro-4-nitrophenyl trifluoromethanesulfonate | 3.23 mmol, 992 mg | FC(S(=O)(=O)OC1=C(C=C(C=C1F)[N+](=O)[O-])F)(F)F | C7H2F5NO5S
reactant | thiomorpholine | 4.85 mmol, 0.487 mL | N1CCSCC1 | C4H9NS
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-(2,6-difluoro-4-nitrophenyl)thiomorpholine | 535 mg, 64% | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)N1CCSCC1 | C10H10F2N2O2S
